US06235787B1
0.51 g of silver(I) oxide and 0.33 ml of benzyl bromide were added to a solution of 0.27 g of methyl 3(R)-(allyloxycarbonyl)-2(S)-hydroxy-5-methylhexanoate in 5 ml of dimethylformamide. After stirring the mixture for 24 hours, 0.36 g of cesium carbonate were added and stirring was continued for 3 hours. The mixture was diluted with diethyl ether and filtered. The filtrate was then washed in succession with 5% aqueous citric acid, water, 5% aqueous sodium hydrogen carbonate, water and brine. The diethyl ether phase was dried over anhydrous magnesium sulphate and the solvent was evaporated. The residue was purified by flash column chromatography on silica gel using ethyl acetate/hexane (1:19) for the elution. There was obtained 0.16 g of methyl 3(R)-(allyloxycarbonyl)-2(S)-benzyloxy-5-methylhexanoate in the form of a clear oil.

reactant | benzyl bromide | 0.33 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | methyl 3(R)-(allyloxycarbonyl)-2(S)-hydroxy-5-methylhexanoate | 0.27 g | C(C=C)OC(=O)[C@@H]([C@@H](C(=O)OC)O)CC(C)C | C12H20O5
reactant | cesium carbonate | 0.36 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | silver(I) oxide | 0.51 g | [Ag-]=O
product | methyl 3(R)-(allyloxycarbonyl)-2(S)-benzyloxy-5-methylhexanoate | 0.16 g | C(C=C)OC(=O)[C@@H]([C@@H](C(=O)OC)OCC1=CC=CC=C1)CC(C)C | C19H26O5
